US07875640B2
tert-butyl 3-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)azetidine-1-carboxylate
A mixture of 3,3-dimethylbutanal (3.7 mL, 30 mmol), tert-butyl 3-(aminomethyl)azetidine-1-carboxylate (Astatech, 5 g, 27 mmol), and 8 g of 4 Å molecular sieves (8-12 mesh beads) in acetonitrile (50 mL) was stirred at ambient temperature for 72 h. The material was filtered through Celite with acetonitrile (additional 25 mL) then potassium thiocyanate (3.5 g, 35 mmol) was added and the mixture was warmed to 50° C. Iodine (6.81 g, 26.8 mmol) was added and the mixture stirred at 50° C. for 16 h then was cooled to ambient temperature. The mixture was stirred with 75 mL of 20% aqueous sodium metabisulfite for 1 h then the layers were separated and the aqueous layer was extracted with 3×10 mL CH2Cl2. The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give the crude title compound (6.3 g, 19 mmol, 72% yield) which was carried on without further purification. MS (DCI/NH3) m/z 326 (M+H)+.

reactant | 3,3-dimethylbutanal | 30 mmol, 3.7 mL | CC(CC=O)(C)C | C6H12O
reactant | tert-butyl 3-(aminomethyl)azetidine-1-carboxylate | 27 mmol, 5 g | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium thiocyanate | 35 mmol, 3.5 g | [S-]C#N.[K+]
reactant | Iodine | 26.8 mmol, 6.81 g | II | I2
reactant | sodium metabisulfite | 75 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-butyl 3-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)azetidine-1-carboxylate | 19 mmol, 6.3 g, 72% yield | C(C)(C)(C)C1=CN(C(S1)=N)CC1CN(C1)C(=O)OC(C)(C)C | C16H27N3O2S
